US07834063B2
4-[[2-(4-Pyridinyloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-pyridone, using dry DME as reaction solvent: 1H NMR (400 MHz, CDCl3) δ 8.45 (dd, J=5.0, 1.3 Hz, 2H), 7.68 (d, J=8.8 Hz, 1H), 7.18 (d, J=2.5 Hz, 1H), 7.01 (dd, J=8.7, 2.6 Hz, 1H), 6.77 (dd, J=4.9, 1.3 Hz, 2H), 4.27 (t, J=5.2 Hz, 2H), 4.19 (q, J=8.5 Hz, 2H), 4.04 (t, J=5.3 Hz, 2H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-pyridone | N1=CCC(C=C1)=O | C5H5NO
solvent | DME | COCCOC | C4H10O2
product | 4-[[2-(4-Pyridinyloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | N1=CC=C(C=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C17H13F6N3O
